US03960863
3-[2-(4-m-Tolyl-1-piperazinyl)ethyl]-2,9-dimethyl-4H-pyrido[1,2-a]pyrimidin-4-one
A mixture of 0.19 g of 3-methyl-2-aminopyridine, 1 g of ethyl 2-[2-(4-m-tolyl-1-piperazinyl)ethyl]acetoacetate and 1.17 g of polyphosphoric acid was heated at 120° - 130°C for 2 hours. After completion of the reaction, water was added to the reaction mixture. The resulting mixture was made basic by addition of an aqueous sodium hydroxide solution and then extracted with ethyl acetate. After evaporation of the solvent from the extract, the remaining residue was washed with isopropyl alcohol and recrystallized from isopropyl alcohol to give 0.1 g of the desired compound as pale yellow needles, m.p. 106° - 106.5°C.

reactant | 3-methyl-2-aminopyridine | 0.19 g | CC=1C(=NC=CC1)N | C6H8N2
reactant | ethyl 2-[2-(4-m-tolyl-1-piperazinyl)ethyl]acetoacetate | 1 g | C1(=CC(=CC=C1)N1CCN(CC1)CCC(C(=O)OCC)C(=O)C)C | C19H28N2O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 3-[2-(4-m-Tolyl-1-piperazinyl)ethyl]-2,9-dimethyl-4H-pyrido[1,2-a]pyrimidin-4-one | 0.1 g | C1(=CC(=CC=C1)N1CCN(CC1)CCC1=C(N=C2N(C1=O)C=CC=C2C)C)C | C23H28N4O
